US06166006
In THF (250 ml) was dissolved 3-nitrobenzyl chloride (25.0 g), and to the mixture was added piperidine (36 ml). The reaction mixture was stirred at room temperature for 20 hours. To the mixture was added water (500 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate) to give 1-(3-nitrobenzyl)piperidine (32.2 g) as pale yellow oil.

reactant | 3-nitrobenzyl chloride | 25.0 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | piperidine | 36 ml | N1CCCCC1 | C5H11N
reactant | water | 500 ml | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-(3-nitrobenzyl)piperidine | 32.2 g | [N+](=O)([O-])C=1C=C(CN2CCCCC2)C=CC1 | C12H16N2O2
